US04536505
A solution of 2.66 g of 3-(3-ethoxycarbonyl-2-propyl)-N-(3-pyridyl)indole in 15 ml of methanol and 15 ml of water containing 0.7 g of sodium hydroxide is stirred at room temperature for 18 hours, refluxed for 15 minutes, cooled and evaporated. The residue is redissolved in 25 ml of water, neutralized to pH 6 with 1.44 ml of concentrated hydrochloric acid. The resulting oil is extracted into methylene chloride and the extract is dried over sodium sulfate. Filtration and evaporation gives an oil which is redissolved in 5 ml of tetrahydrofuran and treated with 0.55 ml of concentrated hydrochloric acid. The resulting semi-solid is crystallized from methanol-ether to yield 3-(3-carboxy-2-propyl)-N-(3-pyridyl)indole hydrochloride, m.p. 205°-207°.

reactant | 3-(3-ethoxycarbonyl-2-propyl)-N-(3-pyridyl)indole | 2.66 g | C(C)OC(=O)CC(C)C1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C19H20N2O2
reactant | water | 15 ml, 0.7 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 0.55 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(3-carboxy-2-propyl)-N-(3-pyridyl)indole hydrochloride | Cl.C(=O)(O)CC(C)C1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | InChI=1S/C17H16N2O2.ClH/c1-12(9-17(20)21)15-11-19(13-5-4-8-18-10-13)16-7-3-2-6-14(15)16;/h2-8,10-12H,9H2,1H3,(H,20,21);1H
